US06166064
1-(3-Bromo-phenyl)-cyclobutanol
To a solution of 1,3-dibromo-benzene (2.36 grams, 10 mmol) in tetrahydrofuran at -78° C. was added a 1.6M solution of n-butyllithium (6.3 ml, 10 mmol) in hexane and stirred for 4 hours. Cyclobutanone (700 mg, 10 mmol) was then added in one portion. After stirring for 2 hours at -78° C., the reaction was quenched with 2N hydrochloric acid. The reaction was warmed to room temperature, diluted with water and extracted with ethyl acetate. The ethyl acetate layer was dried and evaporated to give 2.5 grams of crude product which was purified on silica gel eluting with 50% methylene chloride in hexane to give 1.5 grams of the titled compound.

reactant | 1,3-dibromo-benzene | 10 mmol, 2.36 grams | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | n-butyllithium | 10 mmol, 6.3 ml | C(CCC)[Li]
reactant | Cyclobutanone | 10 mmol, 700 mg | C1(CCC1)=O | C4H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-(3-Bromo-phenyl)-cyclobutanol | 1.5 grams | BrC=1C=C(C=CC1)C1(CCC1)O | C10H11BrO
